US04954518
3-Carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with 5-aminotetrazole in the presence of dicyclohexylcarbodiimide to obtain 7-methylsulfonylamino-6-phenoxy-3-(1,2,3,4-tetrazol-5-yl-aminocarbonyl)-4H-1-benzopyran-4-one.

reactant | 3-Carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C(=O)(O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO7S
reactant | 5-aminotetrazole | NC1=NN=NN1 | CH3N5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 7-methylsulfonylamino-6-phenoxy-3-(1,2,3,4-tetrazol-5-yl-aminocarbonyl)-4H-1-benzopyran-4-one | CS(=O)(=O)NC1=CC2=C(C(C(=CO2)C(=O)NC2=NN=NN2)=O)C=C1OC1=CC=CC=C1 | C18H14N6O6S
